US05008274
2.4 Grams (13.4 mM) of 6-mercapto-3,4-dihydrocarbostyril, 3,3 g (17.4 mM) of 1-(3-bromopropyl)-1,2,4-triazol, and 2.6 ml (17.4 mM) of DBU were added to 60 ml of isopropanol, and the whole mixture was refluxed by heating for 2 hours. After the reaction was completed, the reaction mixture was concentrated, the resulting residue was extracted with chloroform. The chloroform extract was washed with water, an aqueous solution saturated with sodium hydrogen carbonate, and water in this order, then dried with anhydrous sodium sulfate. The dried extract was concentrated by removing the solvent by evaporation, the residue was purified by means of a silica gel column chromatography (eluent: dichloromethane: methanol=20:1), and recrystallized from ethanol-n-hexane to yield 2.5 g of 6-[3-(1H-1,2,4-triazol-1-yl)propylthio]-3,4-dihydrocarbostyril. Colorless needle-like crystals.

reactant | 6-mercapto-3,4-dihydrocarbostyril | 13.4 mM | SC=1C=C2CCC(NC2=CC1)=O | C9H9NOS
reactant | 1-(3-bromopropyl)-1,2,4-triazol | 17.4 mM, 3,3 g | BrCCCN1N=CN=C1 | C5H8BrN3
reactant | DBU | 17.4 mM, 2.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
product | 6-[3-(1H-1,2,4-triazol-1-yl)propylthio]-3,4-dihydrocarbostyril | 2.5 g | N1(N=CN=C1)CCCSC=1C=C2CCC(NC2=CC1)=O | C14H16N4OS
